US06548048B1
a) Synthesis of 3,5-di(Fmoc-Amino)benzoic Acid
The compound was synthesised from 3,5-diaminobenzoic acid and Fmoc-chloride using sodium bicarbonate as base in a mixture of water and a suitable organic solvent. NMR analytical data were in accordance with the structure.

reactant | 3,5-diaminobenzoic acid | NC=1C=C(C(=O)O)C=C(C1)N | C7H8N2O2
reactant | Fmoc-chloride | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 3,5-di(Fmoc-Amino)benzoic Acid | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NC=1C=C(C(=O)O)C=C(C1)NC(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C37H28N2O6
